US04219649
4.45 g. of 2-methyl-3-ethyl-7-chloro-4-oxo-4H-pyrido[1,2-a]pyrimidine are dissolved in ethanol, with heating, then 25 ml. of a 28% by weight solution of hydrogen chloride in ethanol is added to the solution obtained. Upon the precipitated crystals are filtered off and washed with ethanol. 5.01 g. (97%) of 2-methyl-3-ethyl-7-chloro-4-oxo-4H-pyrido[1,2-a]pyrimidine hydrochloride are obtained, m.p.=176° to 180° C.

reactant | 2-methyl-3-ethyl-7-chloro-4-oxo-4H-pyrido[1,2-a]pyrimidine | CC=1N=C2N(C(C1CC)=O)C=C(C=C2)Cl | C11H11ClN2O
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 2-methyl-3-ethyl-7-chloro-4-oxo-4H-pyrido[1,2-a]pyrimidine hydrochloride | 97% | Cl.CC=1N=C2N(C(C1CC)=O)C=C(C=C2)Cl | InChI=1S/C11H11ClN2O.ClH/c1-3-9-7(2)13-10-5-4-8(12)6-14(10)11(9)15;/h4-6H,3H2,1-2H3;1H
